US07834039B2
Into a round bottom flask was added 3-chloro-4-isopropoxy-benzonitrile (5.00 g, 25.6 mmol), hydroxylamine (50% by weight in water, 1.86 mL, 28.1 mmol) and ethanol (150 mL). The mixture was heated at about 60° C. overnight. Upon completion of the reaction, the mixture was concentrated to dryness under reduced pressure to give 3-chloro-N-hydroxy-4-isopropoxy-benzamidine (5.76 g, 94%) as a light yellow solid.

reactant | 3-chloro-4-isopropoxy-benzonitrile | 25.6 mmol, 5.00 g | ClC=1C=C(C#N)C=CC1OC(C)C | C10H10ClNO
reactant | hydroxylamine | 28.1 mmol, 1.86 mL | NO | H3NO
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 3-chloro-N-hydroxy-4-isopropoxy-benzamidine | 5.76 g, 94% | ClC=1C=C(C(=N)NO)C=CC1OC(C)C | C10H13ClN2O2
